US08420647B2
a) Lithium 4-(2,5-dichloro-phenoxy)-6-methyl-nicotinate
To a solution of 420 mg (1.345 mmol) 4-(2,5-dichloro-phenoxy)-6-methyl-nicotinic acid methyl ester in 5 mL dioxane was added 5 mL water and 85 mg (2.018 mmol) lithium hydroxide monohydrate. The reaction mixture was stirred for 2 hours at room temperature and then concentrated under vacuum. The so-obtained light yellow solid was pure enough for the next step without further purification. MS (ESI): m/z=298.004 [M+H]+.

reactant | 4-(2,5-dichloro-phenoxy)-6-methyl-nicotinic acid methyl ester | 1.345 mmol, 420 mg | COC(C1=CN=C(C=C1OC1=C(C=CC(=C1)Cl)Cl)C)=O | C14H11Cl2NO3
reactant | water | 5 mL | O | H2O
reactant | lithium hydroxide monohydrate | 2.018 mmol, 85 mg | O.[OH-].[Li+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | Lithium 4-(2,5-dichloro-phenoxy)-6-methyl-nicotinate | ClC1=C(OC2=CC(=NC=C2C(=O)[O-])C)C=C(C=C1)Cl.[Li+] | InChI=1S/C13H9Cl2NO3.Li/c1-7-4-11(9(6-16-7)13(17)18)19-12-5-8(14)2-3-10(12)15;/h2-6H,1H3,(H,17,18);/q;+1/p-1
